US06352999B1
A mixture of 2-(4-chlorophenyl)-3-(2-hydroxyethyl)-4(3H)-quinazolinone (0.068 mol) and HBr in water 46% (200 ml) was stirred and refluxed for 90 minutes. 300 ml of water was added. The crystallized product was filtered off and dried (fraction 1). The filtrate (oil) was solidified (fraction 2). Both fractions were combined, yielding 23.5 g (78%) of 3-(2-bromoethyl)-2-(4-chlorophenyl)-4(3H)-quinazolinone monohydrobromide; mp. 214.0° C. (interm. 19).

reactant | 2-(4-chlorophenyl)-3-(2-hydroxyethyl)-4(3H)-quinazolinone | 0.068 mol | ClC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1CCO)=O | C16H13ClN2O2
reactant | HBr | Br | BrH
solvent | water | 200 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 3-(2-bromoethyl)-2-(4-chlorophenyl)-4(3H)-quinazolinone monohydrobromide | 23.5 g, 78% | Br.BrCCN1C(=NC2=CC=CC=C2C1=O)C1=CC=C(C=C1)Cl | InChI=1S/C16H12BrClN2O.BrH/c17-9-10-20-15(11-5-7-12(18)8-6-11)19-14-4-2-1-3-13(14)16(20)21;/h1-8H,9-10H2;1H
